US04569994
To a stirred solution of NaOH (4.0 g, 0.1 m) DMSO (250 ml) and water (250 ml) was added 7,8,9,10-tetrahydro-6,6-dimethyl-3-hydroxy-6H-dibenzo[b,d]pyran (21.3 g, 0.0926 m) and then epichlorohydrin (60 g, 0.648 m) and the mixture stirred for 5 hours, treated with water (1 L) and extracted with ether (3×500 ml). The combined extracts were dried over MgSO4 and evaporated to give 7,8,9,10-tetrahydro-6,6-dimethyl-3-(oxiranylmethoxy)-6H-dibenzo[b,d]pyran as a pale yellow oil, 23.2 g. This material was of sufficient purity to use as is for further chemical processing.

reactant | NaOH | 4.0 g | [OH-].[Na+]
reactant | DMSO | 250 ml | CS(=O)C | C2H6OS
reactant | 7,8,9,10-tetrahydro-6,6-dimethyl-3-hydroxy-6H-dibenzo[b,d]pyran | 21.3 g | CC1(C2=C(C3=C(O1)C=C(C=C3)O)CCCC2)C | C15H18O2
reactant | epichlorohydrin | 60 g | C(Cl)C1CO1 | C3H5ClO
solvent | water | 1 L | O | H2O
solvent | water | 250 ml | O | H2O
product | 7,8,9,10-tetrahydro-6,6-dimethyl-3-(oxiranylmethoxy)-6H-dibenzo[b,d]pyran | CC1(C2=C(C3=C(O1)C=C(C=C3)OCC3OC3)CCCC2)C | C18H22O3
